US04046914
2-Ethoxyhexadecyl p-toluenesulfonate was prepared by treating 2-ethoxyhexadecanol (1.72 g) with p-toluenesulfonylchloride (1.5 g) in pyridine (2.3 ml) at room temperature over night. There was obtained 2.47 g of a crude product, which by thin layer chromatography was shown to contain very small amounts of impurities.

reactant | 2-ethoxyhexadecanol | 1.72 g | C(C)OC(CO)CCCCCCCCCCCCCC | C18H38O2
reactant | p-toluenesulfonylchloride | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
product | 2-Ethoxyhexadecyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC(CCCCCCCCCCCCCC)OCC)C | C25H44O4S
